US04357344
4,6-Di-t-butyl-2-(4-methoxybenzyl)phenol was prepared as follows: A solution of 2,4-di-t-butylphenol (57.5 g), 4-methoxybenzyl alcohol (34.5 g) and oxalic acid (2 g) in acetic acid (80 ml) and water (2 ml) was refluxed for 7 hours, diluted with water, and extracted with chloroform. Distillation of the chloroform extract gave an oil (b.p. 200°-210° C. at 2 mm Hg) which crystallized (58 g; 71.4%). The product was recrystallized from methanol to give glistening colorless needles, m.p. 84°-85° (Found: C, 81.0; H, 8.21. Calc. for C22H30O2 : C, 80.9; H, 9.26%). The pmr spectrum exhibited the following: δ1.30, 9H, S; δ1.38, 9H, S; δ3.79, 3H, S; δ3.83, 2H, S; δ4.62, 1H, S; δ6.84, 2H, D (J=8 Hz); δ7.02, 1H, D (J=2 Hz); δ 7.14, 2H, D (J=8 Hz); δ7.23, 1H, D (J=Hz).

reactant | 2,4-di-t-butylphenol | 57.5 g | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)O | C14H22O
reactant | 4-methoxybenzyl alcohol | 34.5 g | COC1=CC=C(CO)C=C1 | C8H10O2
reactant | oxalic acid | 2 g | C(C(=O)O)(=O)O | C2H2O4
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
solvent | water | 2 ml | O | H2O
product | 4,6-Di-t-butyl-2-(4-methoxybenzyl)phenol | C(C)(C)(C)C1=CC(=C(C(=C1)C(C)(C)C)O)CC1=CC=C(C=C1)OC | C22H30O2
